US06239151B1
A solution of 1.15 g of 2′-(N-benzyloxycarbonyl-D-alanyl)-2(R)-[1(RS)-(carboxy)-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide in 5 ml of dimethylformamide was cooled to 0° C. under a nitrogen atmosphere. The mixture was then treated with 1.25 g of O-benzylhydroxylamine and 0.467 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and left to warm to room temperature overnight. The mixture was diluted with water and extracted twice with ethyl acetate. The ethyl acetate layer was then washed with aqueous 2M hydrogen chloride, water and brine. Drying over anhydrous magnesium sulphate and evaporation of the solvent gave 0.820 g of 2′-(N-benzyloxycarbonyl-D-alanyl)-2(R)-[1(RS)-[(benzyloxy)carbamoyl)-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a white foam.

reactant | 2′-(N-benzyloxycarbonyl-D-alanyl)-2(R)-[1(RS)-(carboxy)-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide | 1.15 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)N(NC([C@H](CC(C)C)C(CCCC1=CC=CC=C1)C(=O)O)=O)CC(C)C | C32H45N3O6
reactant | O-benzylhydroxylamine | 1.25 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.467 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2′-(N-benzyloxycarbonyl-D-alanyl)-2(R)-[1(RS)-[(benzyloxy)carbamoyl)-4-phenylbutyl]-2′-isobutyl-4-methylvalerohydrazide | 0.820 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)N(NC([C@H](CC(C)C)C(CCCC1=CC=CC=C1)C(NOCC1=CC=CC=C1)=O)=O)CC(C)C | C39H52N4O6
